US04202698
1-Nitro-4-(2-phenoxy-ethoxy)-benzene is reduced and the resulting amine is heated in acetic anhydride and glacial acetic acid and nitrated with 70% strength nitric acid. 1-Acetamido-2-nitro-4-(2-phenoxy-ethoxy)-benzene is obtained in 90% yield (melting point: 104° to 106° C.). The amide is hydrolysed with potassium hydroxide in ethanol and the desired nitroamine is obtained in 98% yield (melting point 121° to 123° C.).

reactant | 1-Nitro-4-(2-phenoxy-ethoxy)-benzene | [N+](=O)([O-])C1=CC=C(C=C1)OCCOC1=CC=CC=C1 | C14H13NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetamido-2-nitro-4-(2-phenoxy-ethoxy)-benzene | 90% yield | C(C)(=O)NC1=C(C=C(C=C1)OCCOC1=CC=CC=C1)[N+](=O)[O-] | C16H16N2O5
